US08168809B2
(Production of 1-Acetoxy-2-Methyl-3-(3,4-Methylenedioxyphenyl)Propene by Process (B))
Thereafter, the same operations as the procedure (a), the step (2) and the step (3) (procedure (c)) in Example 2 were carried out to provide 27.7 g of 2-methyl-3-(3,4-methylenedioxyphenyl)propanal. The amount of acetic acid contained in the resulting 2-methyl-3-(3,4-methylenedioxy-phenyl)propanal was 18 ppm.

reactant | 2-methyl-3-(3,4-methylenedioxy-phenyl)propanal | CC(C=O)CC1=CC2=C(C=C1)OCO2 | C11H12O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Acetoxy-2-Methyl-3-(3,4-Methylenedioxyphenyl)Propene | C(C)(=O)OC=C(CC1=CC2=C(C=C1)OCO2)C | C13H14O4
